US07220760B2
To a solution of phenyl-quinolin-4-yl-amine (13 g) and N-ethyl-N,N-diisopropylamine (1.5 eq) in dioxane (105 ml) was added acetic anhydride (28.1 ml, 5 eq). The solution was warmed to reflux of dioxane for 5 days. After cooling, dichloromethane was added and the solution was washed by water and sodium hydroxide 1N. The organic layer was separated and dried over sodium sulfate. The solvent was removed and the mixture was purified by chromatography on silica gel (dichloromethane/ethanol (95:5)) to afford N-phenyl-N-quinolin-4-yl-acetamide (10 g).

reactant | phenyl-quinolin-4-yl-amine | 13 g | C1(=CC=CC=C1)NC1=CC=NC2=CC=CC=C12 | C15H12N2
reactant | N-ethyl-N,N-diisopropylamine | 1.5 eq | C(C)N(C(C)C)C(C)C | C8H19N
reactant | acetic anhydride | 28.1 ml, 5 eq | C(C)(=O)OC(C)=O | C4H6O3
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | dioxane | 105 ml | O1CCOCC1 | C4H8O2
product | N-phenyl-N-quinolin-4-yl-acetamide | 10 g | C1(=CC=CC=C1)N(C(C)=O)C1=CC=NC2=CC=CC=C12 | C17H14N2O
